### PR TITLE
ch1: Admit all primitive propositions 

### PR DESCRIPTION
**Pull request by tangyongsheng17-sudo**
Change all the original propositions (Pp/Df) of "Principia Mathematica" in ch1.v to "Admitted"

### CODE REVIEW

File: .gitignore
Comment (MudroadWhite) [inline .gitignore:1]: Add `.gitignore` at the end of the file, and leave the file only in your local copy

File: pm/ch1.v [hunk 1]
```diff
@@ -35,36 +33,25 @@ Ltac MP_debug H1 H2 D1 D2 :=
...
 (* Reference: https://softwarefoundations.cis.upenn.edu/lf-current/Logic.html#or_assoc *)
 Theorem Assoc1_5 (P Q R : Prop) :
   P ∨ (Q ∨ R) → Q ∨ (P ∨ R).
 Proof.
-  intros [H | [H | H]].
-  { right. left. apply H. }
-  { left. apply H. }
-  { right. right. apply H. }
-Qed.
+Admitted.
```
Comment (MudroadWhite) [inline pm/ch1.v]: For all 
```Coq
Proof.
Admitted.
```
in the file, shrink them to one line `Admitted.` without the `Proof`.

File: pm/ch1.v
Comment (MudroadWhite) [inline pm/ch1.v:1]: After completely modified the `ch1.v`, create a new folder `pm/dagaz/` and move `ch1.v` under that folder

**Review by MudroadWhite — CHANGES_REQUESTED** [review]

**Review by tangyongsheng17-sudo — COMMENTED** [review]
Okay

File: pm/dagaz/ch1.v [hunk 2]
```diff
@@ -0,0 +1,51 @@
...
+  P ∨ P → P. (*Tautology*)
+Admitted.
+
+Theorem Add1_3 (P Q : Prop) :
+  Q → P ∨ Q. (*Addition*)
+Admitted.
+
+Theorem Perm1_4 (P Q : Prop) :
+  P ∨ Q → Q ∨ P. (*Permutation*)
+Admitted.
```
Comment (MudroadWhite) [inline pm/dagaz/ch1.v:42]: Reset `pm/ch1.v` as in the main branch, with `Admit` changed back to original code

**Review by MudroadWhite — CHANGES_REQUESTED** [review]
